US04988695
(b) 3-(2-Chloroethyl)-4-oxo-(1H)-cinnoline.
A solution of 1-(2-aminophenyl)-4-chlorobutan-1-one hydrochloride (b 11.3 g, 0.0427 mol) in concentrated hydrochloric acid (1200 ml) was cooled down to 0° with stirring. Then sodium nitrite (3.54 g, 0.051mol) in water (25 ml) was added dropwise. On completion of the addition, the reaction mixture was allowed to warm to room temperature and stirred overnight. The solution was evaporated under reduced pressure to dryness. The solid obtained was washed with a solution of sodium acetate and collected by filtration to give the title compound, 5.32 g. Recrystallization from methanol gave the product, m.p. 201-203°.

reactant | 1-(2-aminophenyl)-4-chlorobutan-1-one hydrochloride | 0.0427 mol, 11.3 g | Cl.NC1=C(C=CC=C1)C(CCCCl)=O
reactant | sodium nitrite | 0.051mol, 3.54 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 1200 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 3-(2-Chloroethyl)-4-oxo-(1H)-cinnoline | ClCCC1=NNC2=CC=CC=C2C1=O | C10H9ClN2O
